US04132738
A 240 ml (285 mmol) portion of a solution of t-butyllithium in pentane (1.18 M) was added dropwise to a solution of 42 ml (290 mmol) of diisopropylamine in 300 ml of dry tetrahydrofuran while it was stirred with -5° bath cooling under argon. A 12.7 ml (135 mmol) portion of 2-methylpropionic acid in 15 ml of dry tetrahydrofuran was then added dropwise to the reaction mixture. A 14.3 ml (140 mmol) portion of n-propyliodide was then added dropwise to the reaction mixture as stirring was continued with ice bath cooling. The resultant mixture was stirred two hours without cooling and then acidified by the slow addition of 10% hydrochloric acid. The resultant mixture was extracted several times with ether and the combined extracts were washed with brine, dried (Na2SO4) and evaporated in vacuo to yield 16.3 g of 2,2-dimethylpentanoic acid, having the following spectral characteristics: nmr (CDCl3) δ 0.94 (3H, t, J= 8.5 Hz), 1.20 (6H, s), 1.2-1.8 (4H, m) and 11.3 ppm (1H, broad s); ir (CHCl3) 860, 945, 1185, 1240, 1290, 1310, 1370, 1410, 1480, 1700 and 2400-3400 cm-1 (broad).

reactant | t-butyllithium | C(C)(C)(C)[Li]
reactant | diisopropylamine | 290 mmol, 42 ml | C(C)(C)NC(C)C | C6H15N
reactant | 2-methylpropionic acid | CC(C(=O)O)C | C4H8O2
reactant | n-propyliodide | C(CC)I | C3H7I
reactant | hydrochloric acid | Cl | ClH
solvent | pentane | 1.18 M | CCCCC | C5H12
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 2,2-dimethylpentanoic acid | 16.3 g | CC(C(=O)O)(CCC)C | C7H14O2
